US05216020
Step B: Preparation of 2,3-dihydrothieno[2,3-b]thiophene-1,1-dioxide
Copper dust (13.4 g. 0.20 mol) was added to a solution of 4,5-dihydrothieno[2,3-b]thiophene-2-carboxylic acid-6,6-dioxide (45 g, 0.20 mol) in quinoline (500 mL) in a reaction vessel fitted with an efficient condenser. The well stirred reaction mixture was heated to 180° C. for 1.5 hours under a nitrogen atmosphere. The dark solution was cooled to room temperature and diluted with ethyl acetate (2 L). The solution was washed with 6N HCl, water, saturated sodium bicarbonate, and saturated brine. The organic phase was dried over magnesium sulfate and treated with decolorizing carbon. Filtration and evaporation of solvent gave the title compound as a solid (33 g, 95%).

reactant | 4,5-dihydrothieno[2,3-b]thiophene-2-carboxylic acid-6,6-dioxide | 0.20 mol, 45 g | S1C(=CC2=C1S(CC2)(=O)=O)C(=O)O | C7H6O4S2
solvent | quinoline | 500 mL | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | ethyl acetate | 2 L | C(C)(=O)OCC | C4H8O2
catalyst | Copper | 0.20 mol, 13.4 g | [Cu] | Cu
product | 2,3-dihydrothieno[2,3-b]thiophene-1,1-dioxide | 33 g, 95% | S1(CCC2=C1SC=C2)(=O)=O | C6H6O2S2
